2203-10-30 06:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2203-10-29**] 09:00 AM
   - Pt placed on CIWA
   - Bradycardia (while maintaining MAPs) to HR mid 40's overnight
   - Started additionally on Ceftaz/Flagyl IV
   - Numerous teeth noted to fall out
   Allergies:
   Lisinopril
   Wheezing; angio
   Last dose of Antibiotics:
   Ceftazidime - [**2203-10-29**] 05:00 PM
   Ceftriaxone - [**2203-10-29**] 08:30 PM
   Metronidazole - [**2203-10-30**] 06:00 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2203-10-29**] 08:30 AM
   Famotidine (Pepcid) - [**2203-10-29**] 02:39 PM
   Morphine Sulfate - [**2203-10-29**] 03:00 PM
   Heparin Sodium (Prophylaxis) - [**2203-10-29**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2203-10-30**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.9
C (96.7
   HR: 50 (44 - 70) bpm
   BP: 128/65(81) {121/61(76) - 146/87(99)} mmHg
   RR: 16 (15 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  8,366 mL
                                                                  1,112 mL
   PO:
             TF:
   IVF:
                                                                  2,166 mL
                                                                  1,112 mL
   Blood products:
   Total out:
                                                                  3,950 mL
                                                                  1,070 mL
   Urine:
                                                                  2,850 mL
                                                                  1,070 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,416 mL
                                                                     42 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 27
   PIP: 24 cmH2O
   Plateau: 17 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 99%
   ABG: 7.38/33/102/20/-4
   Ve: 10.6 L/min
   PaO2 / FiO2: 204
   Physical Examination
   GEN: intubated and sedated, dishelved
   HEENT: sclera anicteric, no epistaxis or rhinorrhea, MMM, poor status
   and loose dentition.
   NECK: No JVD, no bruits, no cervical lymphadenopathy, trachea,
   edematouse with keloid around neck, no obviouse trauma.
   COR: RRR, no M/G/R, normal S1 S2, radial pulses +2
   PULM: Lungs CTAB, no W/R/R
   ABD: Soft, NT, ND, +BS, no HSM, no masses
   EXT: No C/C/E, no palpable cords, old surgical scars, ? fused ankle
   Labs / Radiology
   327 K/uL
   11.8 g/dL
   147 mg/dL
   0.7 mg/dL
   20 mEq/L
   4.1 mEq/L
   6 mg/dL
   111 mEq/L
   140 mEq/L
   34.8 %
   7.8 K/uL
        [image002.jpg]
                            [**2203-10-29**]  10:22 AM
                            [**2203-10-29**]  03:55 PM
                            [**2203-10-29**]  06:41 PM
                            [**2203-10-30**]  04:30 AM
   WBC
   12.7
   7.8
   Hct
   34.0
   34.8
   Plt
   339
   327
   Cr
   0.6
   0.6
   0.7
   TCO2
   20
   Glucose
   139
   149
   147
   Other labs: PT / PTT / INR:13.3/25.2/1.1, ALT / AST:[**11-1**], Alk Phos / T
   Bili:104/0.4, Differential-Neuts:81.8 %, Lymph:13.5 %, Mono:2.4 %,
   Eos:2.1 %, Lactic Acid:0.8 mmol/L, Albumin:3.2 g/dL, LDH:180 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   70 year-old male with a history of prostate ca, HTN and recent ne BP
   meds who presents with acute airway obstruction
   .
   Plan:
   # neck swelling: given response to steroid/benadryl/h2 blocker and
   possible recent (discussed with pharmacy [**Telephone/Fax (1) 6514**], he has new first
   time perscribtion for lisinopril 10 mg from [**10-24**], and picked
   it up couple days later) is most likely due to angioedema, in
   differential also SVC syndrome given rapid rise of neck edema w/o
   facial edema, and hx of ca. possible also localized infection of neck
   given poor dentition but less likely as no focal fluctuation, fever,
   leucocytosis. To consider also would be bleed with rapid expansion of
   hematoma.
   - iv steroid/ benaryl/ h2 blocker
   - reimaging with CTA of neck or MRA/MRV
   .
   # respiratory failure: ventilation problem secondary to airway
   obstruction: additionaly some concern for pna/vs aspiration pna,
   possible to be chronic aspiration pneumonitis
   - broad coverage for now but take of quickly if no clear indication
   - cont vent and change to ps as tolarated,
   - place a-line and check abg post intubation
   .
   # HTN: hold ace and verapami, treat with BB if indicated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2203-10-29**] 09:18 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2203-10-30 09:30:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   70 yr old, hx of prostate ca, MVA, HTN
   Acute resp failure - intubated, question of ACE angioedema
   24 Hour Events:
   CIWA scale - not activated
   Abx - ceftaz and flagyl started
   No cuff leak on deflation of ETT cuff
   ROS - denies pain
   Allergies:
   Lisinopril
   Wheezing; angio
   Last dose of Antibiotics:
   Ceftazidime - [**2203-10-29**] 05:00 PM
   Ceftriaxone - [**2203-10-29**] 08:30 PM
   Metronidazole - [**2203-10-30**] 06:00 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2203-10-29**] 03:00 PM
   Heparin Sodium (Prophylaxis) - [**2203-10-29**] 10:00 PM
   Famotidine (Pepcid) - [**2203-10-30**] 08:05 AM
   Other medications:
   Benadryl, solumedrol 125mg q8h
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2203-10-30**] 09:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.9
C (96.6
   HR: 50 (44 - 66) bpm
   BP: 128/65(81) {121/61(76) - 146/87(99)} mmHg
   RR: 16 (15 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  8,366 mL
                                                                  1,440 mL
   PO:
             TF:
   IVF:
                                                                  2,166 mL
                                                                  1,440 mL
   Blood products:
   Total out:
                                                                  3,950 mL
                                                                  1,070 mL
   Urine:
                                                                  2,850 mL
                                                                  1,070 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,416 mL
                                                                    370 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 27
   PIP: 24 cmH2O
   Plateau: 17 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 99%
   ABG: 7.38/33/102/20/-4
   Ve: 10.6 L/min
   PaO2 / FiO2: 204
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: 1+
   Skin:  Not assessed, keloids
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.8 g/dL
   327 K/uL
   147 mg/dL
   0.7 mg/dL
   20 mEq/L
   4.1 mEq/L
   6 mg/dL
   111 mEq/L
   140 mEq/L
   34.8 %
   7.8 K/uL
        [image002.jpg]
                            [**2203-10-29**]  10:22 AM
                            [**2203-10-29**]  03:55 PM
                            [**2203-10-29**]  06:41 PM
                            [**2203-10-30**]  04:30 AM
   WBC
   12.7
   7.8
   Hct
   34.0
   34.8
   Plt
   339
   327
   Cr
   0.6
   0.6
   0.7
   TCO2
   20
   Glucose
   139
   149
   147
   Other labs: PT / PTT / INR:13.3/25.2/1.1, ALT / AST:[**11-1**], Alk Phos / T
   Bili:104/0.4, Differential-Neuts:81.8 %, Lymph:13.5 %, Mono:2.4 %,
   Eos:2.1 %, Lactic Acid:0.8 mmol/L, Albumin:3.2 g/dL, LDH:180 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 IMPAIRED SKIN INTEGRITY
 .H/O ALCOHOL ABUSE
   Acute respiratory failure likely due to ACE-induced angioedema with
   edema reported on CT but no abscess. He also has multifocal pneumonia
   on CT chest which is likely due to aspiration
 suspect anaerobic. He
   is being treated with ceftriaxone and flagyl. Gram stain no organisms,
   culture pending. Wbc normal, expected to rise with steroids.
   C1-esterase pending.
   Bradycardia
 has first degree block, possibly exacerbated by propofol
   Poor dentition
 needs to be assessed by dentist
   FEN
 will start nutrition if can pass NG
   Social
 try to touch base with family/friends
   ICU [**Name2 (NI) **]
   Glycemic Control:
   Lines:
   18 Gauge - [**2203-10-29**] 09:18 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2203-10-31 06:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -In am, d/c'd propofol [**1-15**] bradycardia overnight and started bolus
   sedation with fentanyl and versed.
   - Rpt EKG with QTc 487.
   -CXR with "Some persistent opacification at the bases are consistent
   with atelectasis. Some elevated pulmonary venous pressure without
   definite acute pneumonia."
   -[**Name (NI) **] pt's sister, [**Name (NI) 2065**] [**Name (NI) 6520**] who lives at Back of [**Doctor Last Name **] Apts,
   [**Last Name (NamePattern4) 6521**], [**Location (un) 1809**]. Ph [**Telephone/Fax (1) 6522**]. She was updated
   on the pt's condition but was unable to visit today.
   -In afternoon, pt with brief episode of decr O2 sat, tachypnea and
   distress motioning that he could not breath. Resolved with incr
   sedation. This happened again about 8p and again resolved with bolus of
   fentanyl 12.5 and versed 0.5.
   -Plan to contact ENT for possible scope in am
   -C1 Esterase still pending
   -Cx NGTD
   -Plan for rpt EKG in am
   -Decreased methypred to 60Q8 from 125Q8
   -Changed abx to Clinda from Ceftri and Flagyl as better coverage for
   likely aspiration pna
   -Cont D5 1/2NS at 75cc/hr
   -D/c'd CIWA scale
   Allergies:
   Lisinopril
   Wheezing;  angi
   Last dose of Antibiotics:
   Ceftazidime - [**2203-10-29**] 05:00 PM
   Ceftriaxone - [**2203-10-29**] 08:30 PM
   Metronidazole - [**2203-10-30**] 01:34 PM
   Clindamycin - [**2203-10-31**] 04:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2203-10-30**] 08:00 PM
   Midazolam (Versed) - [**2203-10-30**] 08:00 PM
   Fentanyl - [**2203-10-30**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2203-10-30**] 10:22 PM
   Furosemide (Lasix) - [**2203-10-31**] 12:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2203-10-31**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.5
   HR: 67 (41 - 109) bpm
   BP: 150/69(90) {124/61(77) - 165/85(104)} mmHg
   RR: 15 (11 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,141 mL
                                                                    489 mL
   PO:
             TF:
   IVF:
                                                                  3,141 mL
                                                                    489 mL
   Blood products:
   Total out:
                                                                  2,290 mL
                                                                  1,540 mL
   Urine:
                                                                  2,290 mL
                                                                  1,540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    851 mL
                                                                 -1,051 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 579 (549 - 702) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 29
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: 7.45/34/92.[**Numeric Identifier 1176**]/23/0
   Ve: 9.1 L/min
   PaO2 / FiO2: 186
   Physical Examination
   GEN: Intubated but easily arousable
   HEENT: sclera anicteric, no epistaxis or rhinorrhea, MMM, very poor
   dental status and loose dentition.
   NECK: No JVD, edematouse with keloid around neck, no obvious trauma.
   COR: RRR, no M/G/R, normal S1 S2, radial pulses +2
   PULM: Lungs CTAB
   ABD: Soft, NT, ND, +BS, no HSM, no masses
   EXT: No C/C/E, old surgical scar on LLE
   Labs / Radiology
   351 K/uL
   11.3 g/dL
   116 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.9 mEq/L
   12 mg/dL
   108 mEq/L
   141 mEq/L
   35.1 %
   9.1 K/uL
        [image002.jpg]
                            [**2203-10-29**]  10:22 AM
                            [**2203-10-29**]  03:55 PM
                            [**2203-10-29**]  06:41 PM
                            [**2203-10-30**]  04:30 AM
                            [**2203-10-31**]  05:10 AM
                            [**2203-10-31**]  05:13 AM
   WBC
   12.7
   7.8
   9.1
   Hct
   34.0
   34.8
   35.1
   Plt
   [**Telephone/Fax (3) 6519**]
   Cr
   0.6
   0.6
   0.7
   0.8
   TCO2
   20
   24
   Glucose
   139
   149
   147
   116
   Other labs: PT / PTT / INR:13.3/25.2/1.1, ALT / AST:[**11-1**], Alk Phos / T
   Bili:104/0.4, Differential-Neuts:81.8 %, Lymph:13.5 %, Mono:2.4 %,
   Eos:2.1 %, Lactic Acid:0.8 mmol/L, Albumin:3.2 g/dL, LDH:180 IU/L,
   Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   70yoM with a history of prostate ca, HTN and recent ne BP meds who
   presents with acute airway obstruction
   .
   # Neck Swelling: Likely angioedema [**1-15**] to ACEi. Now on patients
allergy list
   - Cont iv steroid (with decreased dose) / benaryl/ h2 blocker
   - Will call ENT today for potential evaluation tomorrow
   - Will call Anesthesia tomorrow to be present with fiberoptic scope
   .
   # Chronic Aspiration PNA: Appearance on CT. No active signs of
   infection. However will treat empirically.
   - Cont  Ceftaz/Flagyl for time being.
   - cont vent and change to ps as tolarated,
   .
   # HTN: Holding ACEi
   - Can add back B-Blocker and Ca-Blocker PRN
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2203-10-29**] 09:18 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2203-10-31 13:00:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory faliure, anaphylaxis, pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient extubated this morning.
   Hemodynamically stable.
   No dyspnea, pain, itching.
   24 Hour Events:
   History obtained from Patient
   Allergies:
   Lisinopril
   Wheezing;  angi
   Last dose of Antibiotics:
   Ceftazidime - [**2203-10-29**] 05:00 PM
   Ceftriaxone - [**2203-10-29**] 08:30 PM
   Metronidazole - [**2203-10-30**] 01:34 PM
   Clindamycin - [**2203-10-31**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2203-10-31**] 12:10 AM
   Fentanyl - [**2203-10-31**] 04:42 AM
   Midazolam (Versed) - [**2203-10-31**] 04:43 AM
   Famotidine (Pepcid) - [**2203-10-31**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2203-10-31**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2203-10-31**] 12:59 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.8
C (96.4
   HR: 65 (42 - 109) bpm
   BP: 168/56(85) {126/56(79) - 168/85(104)} mmHg
   RR: 17 (11 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.6 kg (admission): 93.4 kg
             Total In:
                                                                  3,144 mL
                                                                  1,427 mL
   PO:
             240 mL
   TF:
   IVF:
                                                                  3,144 mL
                                                                  1,187 mL
   Blood products:
   Total out:
                                                                  2,290 mL
                                                                  2,305 mL
   Urine:
                                                                  2,290 mL
                                                                  2,305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    854 mL
                                                                   -877 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 579 (549 - 702) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 29
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: 7.45/34/92.[**Numeric Identifier 1176**]/23/0
   Ve: 9.1 L/min
   PaO2 / FiO2: 232
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, No stridor
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : Bibasilar rales, No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   11.3 g/dL
   351 K/uL
   116 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.9 mEq/L
   12 mg/dL
   108 mEq/L
   141 mEq/L
   35.1 %
   9.1 K/uL
        [image002.jpg]
                            [**2203-10-29**]  10:22 AM
                            [**2203-10-29**]  03:55 PM
                            [**2203-10-29**]  06:41 PM
                            [**2203-10-30**]  04:30 AM
                            [**2203-10-31**]  05:10 AM
                            [**2203-10-31**]  05:13 AM
   WBC
   12.7
   7.8
   9.1
   Hct
   34.0
   34.8
   35.1
   Plt
   [**Telephone/Fax (3) 6519**]
   Cr
   0.6
   0.6
   0.7
   0.8
   TCO2
   20
   24
   Glucose
   139
   149
   147
   116
   Other labs: PT / PTT / INR:13.3/25.2/1.1, ALT / AST:[**11-1**], Alk Phos / T
   Bili:104/0.4, Differential-Neuts:81.8 %, Lymph:13.5 %, Mono:2.4 %,
   Eos:2.1 %, Lactic Acid:0.8 mmol/L, Albumin:3.2 g/dL, LDH:180 IU/L,
   Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 IMPAIRED SKIN INTEGRITY
 .H/O ALCOHOL ABUSE
   ANAPHYLAXIS
   Patient doing well post extubation. Oxygen saturation excellent on
   supplemental oxygen via nasal cannula. No stridor on exam. Begin to
   taper steroids. Course consistent with allergic reaction.
   ICU Care
   Nutrition: Oral
   Glycemic Control:
   Lines:
   18 Gauge - [**2203-10-29**] 09:18 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes
   ------ Protected Section ------
   CT scan reviewed: bibasilar infiltrates/atelectasis. Given poor dental
   hygiene, patient placed on antibiotics for possible aspiration.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 25**], MD
   on:[**2203-10-31**] 13:19 ------

2203-11-01 07:54:00 Physician Resident Progress Note
Chief Complaint: SOB [**1-15**] angioedema
   24 Hour Events:
 EKG - At [**2203-10-31**] 08:01 AM
 CALLED OUT
   - Extubated without difficulty
   - called PCP and confirmed home dose of Verapamil SR 240mg qday, but
   was bradycardic late at night so this medication was discontinued (?
   change to [**Last Name (un) 239**] or amlodipine?)
   - Call out late -> no bed yet
   History obtained from Patient
   Allergies:
   History obtained from Patient-Lisinopril
   Wheezing;  angioedema
   Last dose of Antibiotics:
   Ceftazidime - [**2203-10-29**] 05:00 PM
   Ceftriaxone - [**2203-10-29**] 08:30 PM
   Metronidazole - [**2203-10-30**] 01:34 PM
   Clindamycin - [**2203-11-1**] 06:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2203-10-31**] 07:48 PM
   Heparin Sodium (Prophylaxis) - [**2203-10-31**] 10:00 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: Dry mouth, "raw" throat after extubation
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, Edema
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis
   Integumentary (skin): No(t) Rash
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious
   Flowsheet Data as of  [**2203-11-1**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 51 (49 - 91) bpm
   BP: 152/65(87) {132/56(79) - 169/84(102)} mmHg
   RR: 18 (14 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 94.6 kg (admission): 93.4 kg
             Total In:
                                                                  3,091 mL
                                                                    307 mL
   PO:
                                                                    940 mL
             TF:
   IVF:
                                                                  2,151 mL
                                                                    307 mL
   Blood products:
   Total out:
                                                                  3,790 mL
                                                                  1,080 mL
   Urine:
                                                                  3,790 mL
                                                                  1,080 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -699 mL
                                                                   -773 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at bases bilat)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   351 K/uL
   11.3 g/dL
   116 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.9 mEq/L
   12 mg/dL
   108 mEq/L
   141 mEq/L
   35.1 %
   9.1 K/uL
        [image002.jpg]
                            [**2203-10-29**]  10:22 AM
                            [**2203-10-29**]  03:55 PM
                            [**2203-10-29**]  06:41 PM
                            [**2203-10-30**]  04:30 AM
                            [**2203-10-31**]  05:10 AM
                            [**2203-10-31**]  05:13 AM
   WBC
   12.7
   7.8
   9.1
   Hct
   34.0
   34.8
   35.1
   Plt
   [**Telephone/Fax (3) 6519**]
   Cr
   0.6
   0.6
   0.7
   0.8
   TCO2
   20
   24
   Glucose
   139
   149
   147
   116
   Other labs: PT / PTT / INR:13.3/25.2/1.1, ALT / AST:[**11-1**], Alk Phos / T
   Bili:104/0.4, Differential-Neuts:81.8 %, Lymph:13.5 %, Mono:2.4 %,
   Eos:2.1 %, Lactic Acid:0.8 mmol/L, Albumin:3.2 g/dL, LDH:180 IU/L,
   Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 IMPAIRED SKIN INTEGRITY
 .H/O ALCOHOL ABUSE
   70yoM with a history of prostate ca, HTN and recent addition of ACEI to
   BP meds who presented with acute airway obstruction
   .
   # Neck Swelling: Likely angioedema [**1-15**] to ACEi. Now on patients allergy
   list.  Pt now extubated and doing well
   -          Changed prednisone taper to 60mg today then 40mg for 2 days,
   20 mg for 2 days then finish
   .
   # Chronic Aspiration PNA: Appearance on CT. No active signs of
   infection. However will treat empirically.
   - PO Clindamycin for total of 8 days (Currently day #3)
   .
   # HTN: Holding ACEi. BP good this am, verapamil stopped overnight [**1-15**]
   bradycardia
   - consider Amlodipine if pt hypertensive today
   ICU Care
   Nutrition: Low sodium/heart healthy
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2203-10-29**] 09:18 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2203-11-01 12:44:00 Physician Attending Progress Note
Chief Complaint: Respiratory falure, anaphylaxis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient did well over the past 24 hours. No respiratory distress. Good
   oxygnation.
   24 Hour Events:
 EKG - At [**2203-10-31**] 08:01 AM
 CALLED OUT
   Allergies:
   Lisinopril
   Wheezing;  angi
   Last dose of Antibiotics:
   Ceftazidime - [**2203-10-29**] 05:00 PM
   Ceftriaxone - [**2203-10-29**] 08:30 PM
   Metronidazole - [**2203-10-30**] 01:34 PM
   Clindamycin - [**2203-11-1**] 06:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2203-11-1**] 08:22 AM
   Heparin Sodium (Prophylaxis) - [**2203-11-1**] 08:23 AM
   Other medications:
   prednisone, colace, benadryl
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2203-11-1**] 12:44 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 35.5
C (95.9
   HR: 64 (49 - 91) bpm
   BP: 128/71(85) {128/57(83) - 169/84(102)} mmHg
   RR: 17 (13 - 22) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.6 kg (admission): 93.4 kg
             Total In:
                                                                  3,091 mL
                                                                    907 mL
   PO:
                                                                    940 mL
                                                                    600 mL
   TF:
   IVF:
                                                                  2,151 mL
                                                                    307 mL
   Blood products:
   Total out:
                                                                  3,790 mL
                                                                  1,801 mL
   Urine:
                                                                  3,790 mL
                                                                  1,741 mL
   NG:
   Stool:
   60 mL
   Drains:
   Balance:
                                                                   -699 mL
                                                                   -894 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Wheezes : ,
   Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   11.6 g/dL
   317 K/uL
   91 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.3 mEq/L
   11 mg/dL
   104 mEq/L
   138 mEq/L
   33.6 %
   8.7 K/uL
        [image002.jpg]
                            [**2203-10-29**]  10:22 AM
                            [**2203-10-29**]  03:55 PM
                            [**2203-10-29**]  06:41 PM
                            [**2203-10-30**]  04:30 AM
                            [**2203-10-31**]  05:10 AM
                            [**2203-10-31**]  05:13 AM
                            [**2203-11-1**]  08:30 AM
   WBC
   12.7
   7.8
   9.1
   8.7
   Hct
   34.0
   34.8
   35.1
   33.6
   Plt
   [**Telephone/Fax (3) 6535**]17
   Cr
   0.6
   0.6
   0.7
   0.8
   0.6
   TCO2
   20
   24
   Glucose
   139
   149
   147
   116
   91
   Other labs: PT / PTT / INR:13.3/25.2/1.1, ALT / AST:[**11-1**], Alk Phos / T
   Bili:104/0.4, Differential-Neuts:81.8 %, Lymph:13.5 %, Mono:2.4 %,
   Eos:2.1 %, Lactic Acid:0.8 mmol/L, Albumin:3.2 g/dL, LDH:180 IU/L,
   Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 IMPAIRED SKIN INTEGRITY
 .H/O ALCOHOL ABUSE
   ANAPHYLAXIS
   ANEMIA
   PNEUMONIA
   Patient doing well post extubation. Continues with steriod taper.
   Hct stable. No evidence of bleeding.
   Completing course of antibiotics for aspiration.
   ICU Care
   Nutrition: Oral
   Glycemic Control:
   Lines:
   18 Gauge - [**2203-10-29**] 09:18 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes